US07402595B2
2-(benzo[1,3]dioxol-5-ylmethyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester
A mixture of 2-benzo[1,3]dioxol-5-ylmethyl-6-bromo-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester (300 mg), 10% palladium carbon (300 mg), methanol (6 ml) and THF (6 ml) was stirred at room temperature under 1 atm hydrogen pressure for 12 hrs. Palladium carbon was filtered off, and the filtrate was concentrated. The residue was purified by silica gel column chromatography (ethyl acetate) and recrystallized (ethyl acetate-hexane) to give the title compound (230 mg).

reactant | 2-benzo[1,3]dioxol-5-ylmethyl-6-bromo-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | 300 mg | COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)Br)=O)CC1=CC2=C(OCO2)C=C1 | C25H18BrNO5
reactant | methanol | 6 ml | CO | CH4O
reactant | hydrogen | [H][H] | H2
catalyst | palladium carbon | 300 mg | [C].[Pd]
solvent | THF | 6 ml | C1CCOC1 | C4H8O
product | 2-(benzo[1,3]dioxol-5-ylmethyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | 230 mg | COC(=O)C=1N(C(C2=CC=CC=C2C1C1=CC=CC=C1)=O)CC1=CC2=C(OCO2)C=C1 | C25H19NO5
